US07517910B2
3-tert-butyl-5-(2-phenylethyl)-1H-pyrazole
A mixture of 3-tert-butyl-1H-pyrazole-5-carbaldehyde (1.52 g, 10.0 mmol), benzyltriphenylphosphonium bromide (6.50 g, 15.0 mmol), potassium carbonate (2.76 g, 20.0 mmol) and N,N-dimethylformamide (30 mL) was stirred at room temperature for 14 hr. The reaction mixture was poured into 1 N hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was concentrated and the residue was purified by silica gel column chromatography (5%-80% ethyl acetate/hexane) to give pale-yellow crystals. The obtained crystals were dissolved in a mixed solvent of ethanol (50 mL) and tetrahydrofuran (50 mL), and 10% palladium-carbon (50% water-containing product, 2.0 g) was added. The mixture was stirred under an atmospheric hydrogen atmosphere for 3 hr. The insoluble material was filtered off, and the filtrate was concentrated to give the title compound (1.90 g, yield 83%) as colorless crystals. 1H NMR (CDCl3) δ: 1.31 (9H, s), 2.90-2.99 (4H, m), 5.89 (1H, s), 7.18-7.33 (5H, m).

reactant | 3-tert-butyl-1H-pyrazole-5-carbaldehyde | 10.0 mmol, 1.52 g | C(C)(C)(C)C1=NNC(=C1)C=O | C8H12N2O
reactant | benzyltriphenylphosphonium bromide | 15.0 mmol, 6.50 g | [Br-].C(C1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium carbonate | 20.0 mmol, 2.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 2.0 g | [C].[Pd]
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 3-tert-butyl-5-(2-phenylethyl)-1H-pyrazole | 1.90 g, yield 83% | C(C)(C)(C)C1=NNC(=C1)CCC1=CC=CC=C1 | C15H20N2
